US09062032B2
To a mixture of 2.88 g of ({5-[(benzyloxy)carbonyl]-2-thienyl}methyl)(triphenyl)phosphonium bromide, 823 mg of 4-nitrobenzaldehyde and 30 mL of THF was added dropwise 1.0 mL of a 5.0 M sodium methoxide/methanol solution, followed by stirring overnight at room temperature. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed sequentially with 1.0 M hydrochloric acid, a saturated aqueous sodium hydrogen carbonate solution, and saturated brine and then dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:6). 10 mL of methanol and 10 mL of THF were added to the obtained residue, and 98 mg of 10% palladium carbon was added thereto under an argon flow, followed by stirring overnight at room temperature in a hydrogen atmosphere. The reaction mixture was filtered using celite, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1), thereby obtaining 765 mg of methyl 5-[2-(4-aminophenyl)ethyl]thiophene-2-carboxylate.

reactant | ({5-[(benzyloxy)carbonyl]-2-thienyl}methyl)(triphenyl)phosphonium bromide | 2.88 g | [Br-].C(C1=CC=CC=C1)OC(=O)C1=CC=C(S1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-nitrobenzaldehyde | 823 mg | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | sodium methoxide methanol | 5.0 M | C[O-].[Na+].CO
solvent | Water | O | H2O
product | methyl 5-[2-(4-aminophenyl)ethyl]thiophene-2-carboxylate | 765 mg | NC1=CC=C(C=C1)CCC1=CC=C(S1)C(=O)OC | C14H15NO2S
